US06555556B1
3-[3-[N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-(2-hydroxyethyl)amino]-1-(E)-propenyl]benzonitrile
To a solution of 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]amino]-1-(E)-propenyl]benzonitrile (1000 mg) and glycolaldehyde dimer (277 mg) in dichloromethane (20 ml) were added acetic acid (0.13 ml) and sodium cyanoborohydride (72 mg) in an ice bath. The mixture was stirred at the same temperature for 5 hours and then at room temperature for 4 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=4/3 as an eluant to give the desired compound (1100 mg, yield 50%) as a pale yellow oil.

reactant | 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]amino]-1-(E)-propenyl]benzonitrile | 1000 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)NC/C=C/C=1C=C(C#N)C=CC1 | C26H31N3O3
reactant | glycolaldehyde dimer | 277 mg | C1C(OCC(O1)O)O | C4H8O4
reactant | acetic acid | 0.13 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 72 mg | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-[3-[N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-(2-hydroxyethyl)amino]-1-(E)-propenyl]benzonitrile | 1100 mg, yield 50% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(CCO)C/C=C/C=1C=C(C#N)C=CC1 | C28H35N3O4
